US04072757
A suspension of 2.5 g of N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry diethyl ether resulted in a precipitate which was collected by filtration and washed several times with dry diethyl ether to give N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl chloride hydrochloride.

reactant | N2 (6-methoxy-2-naphthylsulfonyl)-L-arginine | 2.5 g | N#N.COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (6-methoxy-2-naphthylsulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C17H21ClN4O4S.ClH.N2/c1-26-13-6-4-12-10-14(7-5-11(12)9-13)27(24,25)22-15(16(18)23)3-2-8-21-17(19)20;;1-2/h4-7,9-10,15,22H,2-3,8H2,1H3,(H4,19,20,21);1H;/t15-;;/m0../s1
